US05552551
A solution of 2.50 g (19.0 mmol) of 2'-hydroxyacetophenone, 2.42 g (18.6 mmol) of phenylpropargyladehyde, 3.44 g NaOH (in 9 mL of water) and 50 mL MeOH was stirred for 16 hours before the solution was poured into 500 mL water. The resulting mixture was neutralized with dilute HCl and extracted with CH2Cl2. The solvent was removed from the organic phase. Column separation with CH2Cl2 -petroleum ether (1:1) gave a pure intermediate chalcone product. Further oxidation of the above chalcone was carried out with excess H2O2 (30%) in basic (NaOH aq.) MeOH solution for 18 hours. This solution was poured into water, and neutralized with dilute HCl. The resulting light yellow precipitate was collected by filtration and the pure desired product was obtained by recrystallization from MeOH with 2% overall yield. MP: 153°-154° C. Quantum yield (relative to 3-hydroxyflavone in CH2Cl2) 1.6. Extinction coefficient εmax (M-1 cm-1) 21,000. λmax (abs)=372 nm and λmax (em)=540 nm.

reactant | 2'-hydroxyacetophenone | 19.0 mmol, 2.50 g | OC1=C(C=CC=C1)C(C)=O | C8H8O2
reactant | NaOH | 9 mL, 3.44 g | [OH-].[Na+]
reactant | MeOH | 50 mL | CO | CH4O
reactant | HCl | Cl | ClH
solvent | water | 500 mL | O | H2O
product | chalcone | C1(=CC=CC=C1)C=CC(=O)C1=CC=CC=C1 | C15H12O
